US06878706B1
To a stirred solution of the above (2-morpholin-4-yl-2-oxo-ethyl)-carbamic acid tert-butyl ester (0.44 g, 1.8 mmol) in 1,4-dioxane (4.0 mL), HCl (4.0 mL of a 4 M solution in 1,4-dioxane) was added at room temperature. After one h, the precipitated product was collected via filtration and washed with EtOAc. The solid was dried under high vacuum to give 0.23 g (76%) of 2-amino-1-morpholin-4-yl-ethanone hydrochloride which was used without further purification.

reactant | (2-morpholin-4-yl-2-oxo-ethyl)-carbamic acid tert-butyl ester | 1.8 mmol, 0.44 g | C(C)(C)(C)OC(NCC(=O)N1CCOCC1)=O | C11H20N2O4
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
product | 2-amino-1-morpholin-4-yl-ethanone hydrochloride | 0.23 g, 76% | Cl.NCC(=O)N1CCOCC1 | InChI=1S/C6H12N2O2.ClH/c7-5-6(9)8-1-3-10-4-2-8;/h1-5,7H2;1H
